US05126125
6-Benzyloxy 5-butoxy indole (4 g, 0.0135 mole) is hydrogenated under 50 atmospheres of hydrogen in a reactor with 40 ml of ethanol and 0.6 g 10% palladium on carbon for 3 hours. After filtration and evaporation of the solvent, the residue is recrystallized in a mixture of benzene-hexane to produce 5-butoxy 6-hydroxy indole (2.5 g, yield 90%).

reactant | 6-Benzyloxy 5-butoxy indole | 0.0135 mole, 4 g | C(C1=CC=CC=C1)OC1=C(C=C2C=CNC2=C1)OCCCC | C19H21NO2
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 0.6 g | [Pd] | Pd
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 5-butoxy 6-hydroxy indole | 2.5 g, yield 90% | C(CCC)OC=1C=C2C=CNC2=CC1O | C12H15NO2
